US08685991B2
Part A. Preparation of N-(4-bromo-2-nitrophenyl)-3-oxobutanamide
A solution of diketene (0.32 ml, 4.15 mmol) in toluene (2 ml) was added to an 80° C. solution of 4-bromo-2-nitroaniline (900 mg, 4.15 mmol) in toluene (7 ml) and the solution was heated at reflux for 5 h. Triethylamine (0.58 ml, 4.15 mmol) in toluene (2 ml) was added and refluxing was continued for 30 min. The cooled solution was concentrated in vacuo and the crude product purified by column chromatography on silica gel eluting with 2:1 hexane/EtOAc to give the title compound as a yellow solid (920 mg, 74%).

reactant | diketene | 4.15 mmol, 0.32 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 4-bromo-2-nitroaniline | 4.15 mmol, 900 mg | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | Triethylamine | 4.15 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-bromo-2-nitrophenyl)-3-oxobutanamide | 920 mg, 74% | BrC1=CC(=C(C=C1)NC(CC(C)=O)=O)[N+](=O)[O-] | C10H9BrN2O4
